US04129654
5,7-Dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione
A mixture of 2 g of 1,3-dimethyl-6-hydroxyaminouracil, 20 ml of dimethylformamide and 20 ml of ethyl orthoformate is boiled at 160° C. for 1 hour, after which the solvent is distilled off. To the residue is added ethanol and the resultant crystals are collected by filtration. As recrystallized from hot water, 1.0 g of the captioned compound is obtained as colorless prisms, melting point: 170°-171° C.

reactant | 1,3-dimethyl-6-hydroxyaminouracil | 2 g | CN1C(=O)N(C(=O)C=C1NO)C | C6H9N3O3
reactant | ethyl orthoformate | 20 ml | C(OCC)([O-])[O-]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5,7-Dimethyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione | 1.0 g | CN1C(N(C=2C(C1=O)=CON2)C)=O | C7H7N3O3
